US04518604
2-(2,4-Difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3,3,3-trifluoropropan-2-ol
A hexane solution of n-butyllithium (1.55M, 9.6 ml, 14.9 mmole) was added to diethylether (6 ml) and the solution was cooled to -78° C. A solution of 2,4-difluorobromobenzene (3.03 g, 15.7 mmole) in diethylether (100 ml) was added dropwise over 15 minutes and the mixture was stirred at -78° C. for a further 15 minutes. A solution of 1-bromo-3,3,3-trifluoropropan-2-one (2.4 g, 12.6 mmole) in diethylether (100 ml) was then added dropwise over 15 minutes and the mixture was stirred at -78° C. for a further 30 minutes. A solution of glacial acetic acid (2 ml) in diethylether (5 ml) was then added, followed by water (15 ml) and the mixture was allowed to warm to 0° C. The aqueous layer was separated and washed with diethylether (2×30 ml). The combined diethylether extracts were dried over magnesium sulphate, evaporated, and the residual oil was dissolved in dimethylformamide (40 ml). 1,2,4-Triazole (2.5 g, 36.2 mmole) and anhydrous potassium carbonate (10 g, 72.5 mmole) were then added to this solution and the mixture was stirred and heated at 70° C. for 18 hours. The mixture was then cooled, poured into water (150 ml) and extracted with ethyl acetate (3×100 ml). The combined ethyl acetate extracts were washed with water (100 ml), dried over magnesium sulphate, and evaporated. The residue was chromatographed on silica (230-400 mesh), eluting with ethyl acetate:hexane, 60:40 by volume, to give, after one recrystallization from ethyl acetate/hexane, the title compound, 1.7 g (47%), m.p. 110°-111° C.

reactant | n-butyllithium | 14.9 mmole, 1.55M, 9.6 ml | C(CCC)[Li]
reactant | 2,4-difluorobromobenzene | 15.7 mmole, 3.03 g | FC1=C(C=CC(=C1)F)Br | C6H3BrF2
reactant | 1-bromo-3,3,3-trifluoropropan-2-one | 12.6 mmole, 2.4 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | 1,2,4-Triazole | 36.2 mmole, 2.5 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 72.5 mmole, 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
solvent | diethylether | 5 ml | C(C)OCC | C4H10O
solvent | diethylether | 6 ml | C(C)OCC | C4H10O
solvent | water | 150 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
product | 2-(2,4-Difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3,3,3-trifluoropropan-2-ol | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(F)(F)F)O | C11H8F5N3O
